US09062048B2
Step A: benzyl methyl(4-oxocyclohexyl)carbamate
Benzyl (4-oxocyclohexyl)carbamate (500 mg, 2.0 mmol) in DMF was treated with lithium hexamethyldisilazid (2.0 mmol) at room temperature. This solution was stirred for 30 min and was then treated with iodomethane (0.25 mL, 4.0 mmol) and stirred for 18 h. DMF was removed under vacuum and the residue was purified by silica column chromatography to give the title compound.

reactant | Benzyl (4-oxocyclohexyl)carbamate | 2.0 mmol, 500 mg | O=C1CCC(CC1)NC(OCC1=CC=CC=C1)=O | C14H17NO3
reactant | lithium hexamethyldisilazid | 2.0 mmol | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | iodomethane | 4.0 mmol, 0.25 mL | IC | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
product | benzyl methyl(4-oxocyclohexyl)carbamate | CN(C(OCC1=CC=CC=C1)=O)C1CCC(CC1)=O | C15H19NO3
